US07524849B2
To a solution of 5-chloro-6-(2,4,6-trifluorophenyl)-N-(2,2,2-trifluoroethyl)[1,2,4]triazolo[1,5-a]pyrimidin-7-amine (300 mg, 0.78 mmol) in 4 mL of dimethylsulfoxide at room temperature is added iodomethane (146 μL, 2.34 mmol) followed by sodium hydride (60% in mineral oil, 31 mg, 0.78 mmol). The mixture is then stirred at room temperature for 18 h, and diluted with ethyl acetate. The organic layer is washed with water and saturated sodium chloride, dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with 20% ethyl acetate in hexanes. Concentration provides N-[5-chloro-3-methyl-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-ylidene]-2,2,2-trifluoroethanamine as a white solid (76 mg). MS: m/z 396.0 (M+H).

reactant | 5-chloro-6-(2,4,6-trifluorophenyl)-N-(2,2,2-trifluoroethyl)[1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 0.78 mmol, 300 mg | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)NCC(F)(F)F)N=CN2 | C13H6ClF6N5
reactant | iodomethane | 2.34 mmol, 146 μL | IC | CH3I
reactant | sodium hydride | 0.78 mmol, 31 mg | [H-].[Na+]
solvent | dimethylsulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[5-chloro-3-methyl-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-ylidene]-2,2,2-trifluoroethanamine | 76 mg | ClC=1N=C2N(C(C1C1=C(C=C(C=C1F)F)F)=NCC(F)(F)F)N=CN2C | C14H8ClF6N5
